US07728025B2
(Step 4) Production of t-butyl 2-(4-amino-2-fluoro-5-nitrophenyl)pyrrolidin-1-yl carboxylate
150 ml of aqueous 1 N sodium hydroxide solution was added to a tetrahydrofuran (150 ml) solution of 29 g of 2,2,2-trifluoro-N-(5-fluoro-2-nitro-4-(1-(trifluoroacetyl)pyrrolidin-2-yl)phenyl)acetamide with cooling with ice, and the reaction liquid was stirred at room temperature for 5 hours. 23 ml of di-t-butyl dicarbonate was added to the reaction liquid, and the reaction liquid was stirred for 30 minutes. The reaction liquid was diluted with ethyl acetate, washed with water and saturated saline in order, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=5/1) to obtain the entitled compound as a yellow solid.

reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | 2,2,2-trifluoro-N-(5-fluoro-2-nitro-4-(1-(trifluoroacetyl)pyrrolidin-2-yl)phenyl)acetamide | 29 g | FC(C(=O)NC1=C(C=C(C(=C1)F)C1N(CCC1)C(C(F)(F)F)=O)[N+](=O)[O-])(F)F | C14H10F7N3O4
reactant | di-t-butyl dicarbonate | 23 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-butyl 2-(4-amino-2-fluoro-5-nitrophenyl)pyrrolidin-1-yl carboxylate | NC1=CC(=C(C=C1[N+](=O)[O-])C1N(CCC1)C(=O)OC(C)(C)C)F | C15H20FN3O4
